US04409214
To a solution of 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.4 g) in methanol (30 ml) and tetrahydrofuran (20 ml) was added conc. hydrochloric acid (1.0 ml), and the mixture was stirred at ambient temperature for 2.7 hours. After evaporation of the reaction mixture, the residue was washed with tetrahydrofuran to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (1.2 g).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C16H15N5O6S2
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid hydrochloride | 1.2 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | InChI=1S/C15H15N5O5S2.ClH/c1-3-6-4-26-13-9(12(22)20(13)10(6)14(23)24)18-11(21)8(19-25-2)7-5-27-15(16)17-7;/h3,5,9,13H,1,4H2,2H3,(H2,16,17)(H,18,21)(H,23,24);1H/t9?,13-;/m1./s1
